US05352790
(±) -1-Ethyl-1-(hydroxymethyl) -1,2,3,4,6,7-hexahydro-indolo[2,3-a]quinolizine (III)
37.8 g (0.15 moles) of 1-ethyl-2,3,4,6,7,12-hexahydro-indolo[2,3-a]quinolizine are dissolved in 100 ml of acetone, 5 g of paraformaldehyde are added thereto and the mixture is stirred at room temperature for an hour and a half. Then 30 ml of distilled water are added to the mixture within 15 minutes and the stirring is continued for another hour at O° C. The precipitated title compound obtained in the form of orange-colored crystals is filtered off and washed in two portions under altogether 20 ml of acetone, at 0° C. Weight: 34.13 g (80.7%), melting point: 111°-113° C.

reactant | 1-ethyl-2,3,4,6,7,12-hexahydro-indolo[2,3-a]quinolizine | 0.15 moles, 37.8 g | C(C)C=1CCCN2CCC3=C(C12)NC1=CC=CC=C13 | C17H20N2
reactant | paraformaldehyde | 5 g | C=O | CH2O
reactant | water | 30 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (±) -1-Ethyl-1-(hydroxymethyl) -1,2,3,4,6,7-hexahydro-indolo[2,3-a]quinolizine | C(C)C1(CCCN2CCC=3C(=C12)N=C1C=CC=CC13)CO | C18H22N2O
